US08211956B2
Preparation of Methacrylic Acid (3-trimethoxysilylpropyl) Amide
77.4 g 3-(amino)propyltrimethoxysilane, 43.7 g triethylamine and 25 mg di-tert-butyl-p-cresol were dissolved in 500 ml dichloromethane under argon. 45.1 g methacryloyl chloride was slowly added dropwise within 1 h at −5° C., after which stirring was continued for a further 1 h at 0° C. The precipitated hydrochloride was filtered off and washed again with dichloromethane. The volatile components were removed at 40° C. under reduced pressure on the rotary evaporator. A yellow liquid with separated solid (hydrochloride) remained. The precipitation of the hydrochloride was completed by adding 150 ml diethyl ether, the precipitate was filtered off and the filtrate concentrated to small volume by introducing dry air at 40° C. on the rotary evaporator. The brownish liquid was freed from the remaining volatile components at 4 Pa (4×10−2 mbar) and the crude product (104.2 g) was distilled at a pressure of 0.06 Pa (6×10−4 mbar). The product had a boiling point of 123-125° C. 76.4 g product was obtained as a yellowish clear liquid.

reactant | 3-(amino)propyltrimethoxysilane | 77.4 g | NCCC[Si](OC)(OC)OC | C6H17NO3Si
reactant | triethylamine | 43.7 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 45.1 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
catalyst | di-tert-butyl-p-cresol | 25 mg | C(C)(C)(C)C1=C(C(=CC=C1C)O)C(C)(C)C | C15H24O
product | Methacrylic Acid (3-trimethoxysilylpropyl) Amide | 76.4 g | CO[Si](CCCNC(C(=C)C)=O)(OC)OC | C10H21NO4Si
